US06288120B1
A solution of ethyl glycolate (4.6 g, 44 mmol) in DMF (50 mL) was cooled to 0° C. and sodium bis(trimethylsilyl)amide (1.0 M in THF, 53 mL, 53 mmol) was slowly added. The reaction was stirred for 15 minutes and 1,4-dibromobutane (5.6 mL, 48.4 mmol) was added. The reaction was warmed to room temperature and was stirred for 24 h. Et2O was added, and the organic solution was washed consecutively with HCl (1N, 3×), water (3×), and brine (1×). The organic solution was dried (Na2SO4), filtered, and concentrated. Attempted vacuum distillation removed a majority of the impurities and provided a mixture of product and 1,4-dibromobutane (3.539 g). Flash chromatography (9:1 hexanes:EtOAc) of this material provided (4-bromo-butoxy)-acetic acid ethyl ester (1.862 g). 1H NMR (400 MHz, CDCl3) δ 4.19 (q, 2H), 4.04 (s, 2H), 3.54 (t, 2H), 3.4 2H), 1.97 (m, 2H), 1.75 (m, 2H), 1.26 (t, 3H); MS 239.1 (M+).

reactant | ethyl glycolate | 44 mmol, 4.6 g | C(CO)(=O)OCC | C4H8O3
reactant | sodium bis(trimethylsilyl)amide | 53 mmol, 1.0 M, 53 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,4-dibromobutane | 48.4 mmol, 5.6 mL | BrCCCCBr | C4H8Br2
reactant | Et2O | CCOCC | C4H10O
reactant | 1,4-dibromobutane | 3.539 g | BrCCCCBr | C4H8Br2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-bromo-butoxy)-acetic acid ethyl ester | 1.862 g | C(C)OC(COCCCCBr)=O | C8H15BrO3
